US07700620B2
1-(2-(1H-indol-2-yl)phenyl)-3-(4-tert-butylphenyl)urea
To a solution of commercially available 2-(1H-indol-2-yl)benzenamine (62 mg, 0.3 mmol) in dichloromethane (1.5 mL) at rt was added 4-tert-butylphenyl isocyanate (30 mg, 0.171 mmol). The reaction was stirred overnight at rt. Hexane (1 mL) was added to the reaction mixture and the reaction was allowed to set for ˜5 min. Example 1 was the solid formed which was collected by filtration (47.3 mg). (M+H)+=384.37.

reactant | 2-(1H-indol-2-yl)benzenamine | 0.3 mmol, 62 mg | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)N | C14H12N2
reactant | 4-tert-butylphenyl isocyanate | 0.171 mmol, 30 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | Hexane | 1 mL | CCCCCC | C6H14
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-(2-(1H-indol-2-yl)phenyl)-3-(4-tert-butylphenyl)urea | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C25H25N3O
